US07399868B2
1-Isoquinolin-1-yl-1-(1-trityl-1H-imidazol-4-yl)-ethanol (Intermediate H3) was subjected to TFA: trifluoroacetic acid, Pd/C under hydrogen similar to the catalytic reduction procedure of Method D to remove the trityl group and produced 1-1H-imidazol-4-yl)-isoquinolin-1-yl ethanol (Intermediate H4).

reactant | 1-Isoquinolin-1-yl-1-(1-trityl-1H-imidazol-4-yl)-ethanol | C1(=NC=CC2=CC=CC=C12)C(C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H27N3O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | isoquinolin-1-yl ethanol | C1(=NC=CC2=CC=CC=C12)C(C)O | C11H11NO
